US07642264B2
A stirred mixture of 4-(3,4-dichloro-phenyl)-2-(4-tributylstannanyl-imidazol-1-yl)-6-trifluoromethyl-pyrimidine (Example G.6) (0.46 g, 0.71 mmol), commercially available 5-bromothiophene-2-N-tert-butylsulfonamide (0.23 g, 0.78 mmol), tetrakis(triphenylphosphine)palladium (0.049 g, 0.042 mmol) in toluene (8 mL) was heated under reflux conditions for 15 h, hexane (10 mL) was added and the mixture was stirred at RT for 1 h. The precipitate was collected by filtration and dried to yield 5-{1-[4-(3,4-dichloro-phenyl)-6-trifluoromethyl-pyrimidin-2-yl]-1H-imidazol-4-yl}-thiophene-2-sulfonic acid tert-butyl amide (0.34 g) as a white solid.

reactant | 4-(3,4-dichloro-phenyl)-2-(4-tributylstannanyl-imidazol-1-yl)-6-trifluoromethyl-pyrimidine | 0.71 mmol, 0.46 g | ClC=1C=C(C=CC1Cl)C1=NC(=NC(=C1)C(F)(F)F)N1C=NC(=C1)[Sn](CCCC)(CCCC)CCCC
reactant | 5-bromothiophene-2-N-tert-butylsulfonamide | 0.78 mmol, 0.23 g | CC(C)(C)NS(=O)(=O)C1=CC=C(S1)Br | C8H12BrNO2S2
reactant | hexane | 10 mL | CCCCCC | C6H14
solvent | toluene | 8 mL | C1(=CC=CC=C1)C | C7H8
catalyst | tetrakis(triphenylphosphine)palladium | 0.042 mmol, 0.049 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 5-{1-[4-(3,4-dichloro-phenyl)-6-trifluoromethyl-pyrimidin-2-yl]-1H-imidazol-4-yl}-thiophene-2-sulfonic acid tert-butyl amide | 0.34 g | C(C)(C)(C)NS(=O)(=O)C=1SC(=CC1)C=1N=CN(C1)C1=NC(=CC(=N1)C1=CC(=C(C=C1)Cl)Cl)C(F)(F)F | C22H18Cl2F3N5O2S2
